US04071456
The sultones were the pure compounds derived by sulphur trioxide reaction with straight chain alpha-olefins, except that the delta-docosane sultone was a mixture mostly in the delta form and obtained by the sulphonation of docos-1-ene dissolved in light petroleum (b.p. 60°-80°) with sulphur trioxide vapour and nitrogen at 50° using a 20% molar excess sulphur trioxide for 1 hour and allowing the reaction mixture to age for 4 hours at 60° in order to allow isomerisation to delta-sultone, followed by filtration and recrystallisation of the sultone residue from methanol and finally from hexane.

reactant | sulphur trioxide | S(=O)(=O)=O | O3S
reactant | delta-docosane sultone | C1CCC(CCCCCCCCCCCCCCCCCC)OS1(=O)=O | C22H44O3S
product | docos-1-ene | C=CCCCCCCCCCCCCCCCCCCCC | C22H44
